US07825135B2
tert-Butyl 4-cyano-4-(6-methylpyridin-2-yl)piperidine-1-carboxylate (II-2)
To a solution of 2-fluoro-6-methylpyridine (6.67 g, 60 mmole) in toluene (40 mL) was added tert-butyl 4-cyanopiperidine-1-carboxylate (I-1) (4.22 g, 20 mmole) and 0.5M solution of KHMDS (48 mL, 24 mmole). The reaction mixture was stirred 2h min at rt ° C. After this time, LCMS indicated that the reaction was completion. The reaction mixture was poured into brine (150 mL) and extracted with EtOAc (3×150 mL). The combined organic extracts were washed with brine (2×100 mL), dried over MgSO4, filtered and concentrated to afford the desired product tert-butyl 4-cyano4-(6-methylpyridin-2-yl)piperidine-1-carboxylate (II-2) as a yellow-brown solid. Analytical LCMS: single peak (214 nm), 3.241 min. This product was used in next step reaction without further purification.

reactant | 2-fluoro-6-methylpyridine | 60 mmole, 6.67 g | FC1=NC(=CC=C1)C | C6H6FN
reactant | tert-butyl 4-cyanopiperidine-1-carboxylate | 20 mmole, 4.22 g | C(#N)C1CCN(CC1)C(=O)OC(C)(C)C | C11H18N2O2
reactant | KHMDS | 24 mmole, 48 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | brine | 150 mL | [Cl-].[Na+].O
product | tert-butyl 4-cyano4-(6-methylpyridin-2-yl)piperidine-1-carboxylate | C(#N)C1(CCN(CC1)C(=O)OC(C)(C)C)C1=NC(=CC=C1)C | C17H23N3O2
